US07745641B2
4-(4-Aminophenyl)-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (39.2 mg, 0.0730 mmol) was dissolved in acetic acid (1.57 mL) and water (1.57 mL), and the solution was added with aqueous sodium cyanate solution (0.139 mol/L, 1.57 mL, 0.219 mmol), followed by stirring at 40° C. for 2.3 hours. The reaction mixture was added with saturated aqueous sodium hydrogencarbonate solution and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by preparative thin-layer chromatography (chloroform/methanol/7 mol/L ammonia-methanol solution=10/0.5/0.5) to obtain 4-(4-ureidophenyl)-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (23.7 mg, yield 56%).

reactant | 4-(4-Aminophenyl)-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.0730 mmol, 39.2 mg | NC1=CC=C(C=C1)C1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C33H36N4O3
reactant | sodium cyanate | 0.219 mmol, 0.139 mol/L, 1.57 mL | [O-]C#N.[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetic acid | 1.57 mL | C(C)(=O)O | C2H4O2
solvent | water | 1.57 mL | O | H2O
product | 4-(4-ureidophenyl)-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 23.7 mg, yield 56% | N(C(=O)N)C1=CC=C(C=C1)C1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C34H37N5O4
